US07459472B2
3-Methoxy-2-naphthoic acid 86 mg (0.43 mmol) and the 2-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine 100 mg (0.35 mmol) were coupled using the general procedure A. to afford the 3-Methoxy-naphthalene-2-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide 60 mg.

reactant | 3-Methoxy-2-naphthoic acid | 0.43 mmol, 86 mg | COC=1C(=CC2=CC=CC=C2C1)C(=O)O | C12H10O3
reactant | 2-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine | 0.35 mmol, 100 mg | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)N | C17H15ClFN3O
product | 3-Methoxy-naphthalene-2-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide | 60 mg | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)NC(=O)C1=CC2=CC=CC=C2C=C1OC | C29H23ClFN3O3
